US05189045
2-[(2-fluorophenyl)-amino]-nicotinic acid
50 g of 2-chloronicotinic acid and 31 ml of 2-fluoroaniline in 180 ml of xylene are refluxed for 5 hours. The precipitate is filtered off and washed with xylene and then with water to yield the desired compound.

reactant | 2-chloronicotinic acid | 50 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 2-fluoroaniline | 31 ml | FC1=C(N)C=CC=C1 | C6H6FN
solvent | xylene | 180 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[(2-fluorophenyl)-amino]-nicotinic acid | FC1=C(C=CC=C1)NC1=C(C(=O)O)C=CC=N1 | C12H9FN2O2
